US06288082B1
A mixture of 0.249 g of 4-chloro-6,7-dimethoxy-quinolin-3-carbonitrile, 0.288 g of 5-aminoisoquinoline, 0.020 g of pyridine hydrochloride, and 10 ml of ethoxyethanol was heated under nitrogen in a sealed tube at 200° C. for 2 hours. The mixture was cooled and added to 100 ml of water. To this mixture was added sodium carbonate to pH 9. The product was collected, washed with water, and dried to give 0.100 g of 4-(isoquinolin-5-ylamino)-6,7-dimethoxy-quinoline-3-carbonitrile as a solid, mp 140° C. (decomposed); mass spectrum (EI, m/e): M 356.1279.

reactant | 4-chloro-6,7-dimethoxy-quinolin-3-carbonitrile | 0.249 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 5-aminoisoquinoline | 0.288 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | pyridine hydrochloride | 0.020 g | Cl.N1=CC=CC=C1
reactant | ethoxyethanol | 10 ml | C(C)OC(C)O | C4H10O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 100 ml | O | H2O
product | 4-(isoquinolin-5-ylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 0.100 g | C1=NC=CC2=C(C=CC=C12)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C21H16N4O2
